Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1](=[O:2])[CH2:3][C:4]12[CH2:5][C:6](=[O:7])[NH:8][c:9]3[cH:10][cH:11][cH:12][c:13]([c:14]31)[N:15]([CH2:16][c:17]1[cH:18][cH:19][c:20]3[cH:21][c:22]4[c:23]([cH:24][c:25]3[n:26]1)[CH2:27][C@:28]1([CH2:29]4)[C:30](=[O:31])[NH:32][c:33]3[n:34][cH:35][cH:36][cH:37][c:38]31)[CH2:39]2.[CH2:40]1[CH2:41][CH2:42][NH:43][CH2:44]1>>[C:1](=[O:2])([CH2:3][C:4]12[CH2:5][C:6](=[O:7])[NH:8][c:9]3[cH:10][cH:11][cH:12][c:13]([c:14]31)[N:15]([CH2:16][c:17]1[cH:18][cH:19][c:20]3[cH:21][c:22]4[c:23]([cH:24][c:25]3[n:26]1)[CH2:27][C@:28]1([CH2:29]4)[C:30](=[O:31])[NH:32][c:33]3[n:34][cH:35][cH:36][cH:37][c:38]31)[CH2:39]2)[N:43]1[CH2:42][CH2:41][CH2:40][CH2:44]1,[OH:101][C:1](=[O:2])[CH2:3][C:4]12[CH2:5][C:6](=[O:7])[NH:8][c:9]3[cH:10][cH:11][cH:12][c:13]([c:14]31)[N:15]([CH2:16][c:17]1[cH:18][cH:19][c:20]3[cH:21][c:22]4[c:23]([cH:24][c:25]3[n:26]1)[CH2:27][C@:28]1([CH2:29]4)[C:30](=[O:31])[NH:32][c:33]3[n:34][cH:35][cH:36][cH:37][c:38]31)[CH2:39]2.[CH2:40]1[CH2:41][CH2:42][NH:43][CH2:44]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([CH2:3][C:4]12[CH2:5][C:6](=[O:7])[NH:8][c:9]3[cH:10][cH:11][cH:12][c:13]([c:14]31)[N:15]([CH2:16][c:17]1[cH:18][cH:19][c:20]3[cH:21][c:22]4[c:23]([cH:24][c:25]3[n:26]1)[CH2:27][C@:28]1([CH2:29]4)[C:30](=[O:31])[NH:32][c:33]3[n:34][cH:35][cH:36][cH:37][c:38]31)[CH2:39]2)[N:43]1[CH2:42][CH2:41][CH2:40][CH2:44]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (43, 1), ([1, 2], 2), (303, 43.1), ([43.1, 43], 43), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([C@@H:2]([NH:3][C:4]([O:5][CH3:6])=[O:7])[C:8]([CH3:9])([CH3:10])[CH3:11])=[O:12].[CH3:13][C:14]([CH3:15])([CH3:16])[O:17][C:18](=[O:19])[NH:20][N:21]([CH2:22][c:23]1[cH:24][cH:25][c:26](-[c:27]2[cH:28][n:29][cH:30][s:31]2)[cH:32][cH:33]1)[CH2:34][C@H:35]([OH:36])[C@@H:37]([NH2:38])[CH2:39][c:40]1[cH:41][cH:42][cH:43][cH:44][cH:45]1>>[C:1]([C@@H:2]([NH:3][C:4]([O:5][CH3:6])=[O:7])[C:8]([CH3:9])([CH3:10])[CH3:11])(=[O:12])[NH:38][C@H:37]([C@H:35]([CH2:34][N:21]([NH:20][C:18]([O:17][C:14]([CH3:13])([CH3:15])[CH3:16])=[O:19])[CH2:22][c:23]1[cH:24][cH:25][c:26](-[c:27]2[cH:28][n:29][cH:30][s:31]2)[cH:32][cH:33]1)[OH:36])[CH2:39][c:40]1[cH:41][cH:42][cH:43][cH:44][cH:45]1,[CH3:13][C:14]([CH3:15])([CH3:16])[O:17][C:18](=[O:19])[NH:20][N:21]([CH2:22][c:23]1[cH:24][cH:25][c:26](-[c:27]2[cH:28][n:29][cH:30][s:31]2)[cH:32][cH:33]1)[CH2:34][C@H:35]([OH:36])[C@@H:37]([NH2:38])[CH2:39][c:40]1[cH:41][cH:42][cH:43][cH:44][cH:45]1.[OH:101][C:1]([C@@H:2]([NH:3][C:4]([O:5][CH3:6])=[O:7])[C:8]([CH3:9])([CH3:10])[CH3:11])=[O:12].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([C@@H:2]([NH:3][C:4]([O:5][CH3:6])=[O:7])[C:8]([CH3:9])([CH3:10])[CH3:11])(=[O:12])[NH:38][C@H:37]([C@H:35]([CH2:34][N:21]([NH:20][C:18]([O:17][C:14]([CH3:13])([CH3:15])[CH3:16])=[O:19])[CH2:22][c:23]1[cH:24][cH:25][c:26](-[c:27]2[cH:28][n:29][cH:30][s:31]2)[cH:32][cH:33]1)[OH:36])[CH2:39][c:40]1[cH:41][cH:42][cH:43][cH:44][cH:45]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (38, 1), ([1, 12], 12), (303, 38.1), ([38.1, 38], 38), (12, [12, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[O:1]=[CH:2][c:3]1[n:4][c:5]([Cl:6])[cH:7][c:8]2[c:9]1[c:10]([N:11]1[CH2:12][CH2:13][O:14][CH2:15][CH2:16]1)[n:17][n:18]2[C:19]([c:20]1[cH:25][cH:24][cH:23][cH:22][cH:21]1)([c:26]1[cH:31][cH:30][cH:29][cH:28][cH:27]1)[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1>>[OH:1][CH2:2][c:3]1[n:4][c:5]([Cl:6])[cH:7][c:8]2[c:9]1[c:10]([N:11]1[CH2:12][CH2:13][O:14][CH2:15][CH2:16]1)[n:17][n:18]2[C:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1,[O:1]=[CH:2][c:3]1[n:4][c:5]([Cl:6])[cH:7][c:8]2[c:9]1[c:10]([N:11]1[CH2:12][CH2:13][O:14][CH2:15][CH2:16]1)[n:17][n:18]2[C:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1.[BH4-:301].[CH3][OH1:302]>>[OH:1][CH2:2][c:3]1[n:4][c:5]([Cl:6])[cH:7][c:8]2[c:9]1[c:10]([N:11]1[CH2:12][CH2:13][O:14][CH2:15][CH2:16]1)[n:17][n:18]2[C:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1,carbonyl_reduction,"[([301, 301.1], 2), ([2, 1], 1), (1, 302.1), ([302.1, 302], 302)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
